// Generated for: spectre
// Generated on: Feb 13 17:03:59 2020
// Design library name: inverter
// Design cell name: inv
// Design view name: schematic
simulator lang=spectre
global 0 VDD! GND!
include "/home/install/FOUNDRY/analog/90nm/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN
include "/home/install/FOUNDRY/analog/180nm/models/spectre/gpdk.scs" section=stat

// Library name: inverter
// Cell name: inv
// View name: schematic
NM0 (OUT IN GND! GND!) gpdk090_nmos1v_hvt w=(120n) l=100n as=69.6f \
        ad=69.6f ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
PM0 (OUT IN VDD! VDD!) gpdk090_pmos1v_hvt w=(480n) l=100n as=134.4f \
        ad=134.4f ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
include "./_graphical_stimuli.scs"
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=10n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
