// Generated for: spectre
// Generated on: Feb 14 13:00:49 2020
// Design library name: inverter
// Design cell name: inv
// Design view name: schematic
simulator lang=spectre
global 0 VDD! GND!
include "/home/install/FOUNDRY/analog/90nm/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN
include "/home/install/FOUNDRY/analog/180nm/models/spectre/gpdk.scs" section=stat

// Library name: inverter
// Cell name: inv
// View name: schematic
NM0 (OUT IN GND! GND!) nmos1 w=(400n) l=180n as=440f ad=440f ps=2.8u \
        pd=2.8u m=(1)*(1)
PM0 (OUT IN VDD! VDD!) pmos1 w=(800n) l=180n as=480f ad=480f ps=2.8u \
        pd=2.8u m=(1)*(1)
include "./_graphical_stimuli.scs"
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
